US04362740
5-Sulfamoylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one was prepared by a similar procedure to that of Example 8 except for the use of 5-sulfamoyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione obtained in Reference Example 16. Pale yellow needles (from C2H5OH), mp 256°-258° C. (decomp.) Anal. Calcd. for C10H9NO3S2 : C, 47.04; H, 3.55; N, 5.49. Found: C, 47.18; H, 3.57; N, 5.44.

reactant | 5-sulfamoyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | S(N)(=O)(=O)C1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C11H9NO5S2
solvent | C2H5OH | C(C)O | C2H6O
product | 5-Sulfamoylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one | S(N)(=O)(=O)C1=CC2=C(SC3(CC3)C2=O)C=C1 | C10H9NO3S2
